US03993658
When equivalent amounts of 4,5,6,7-tetraethyl-1,3-diiminoisoindoline and 2-isopropylamino-4-imino-2-thiazoline hydrochloride are substituted for the 1,3-diiminoisoindoline and 2-piperidino-4-imino-2-thiazoline hydrochloride respectively, in the procedure described in Example 9, part B above, there is obtained as the product 1-imino-4,5,6,7-tetraethyl-3-(2-isopropylamino-4-imino-2-thiazolin-5-ylidene)isoindoline hydrochloride.

reactant | 4,5,6,7-tetraethyl-1,3-diiminoisoindoline | C(C)C1=C2C(NC(C2=C(C(=C1CC)CC)CC)=N)=N | C16H23N3
reactant | 2-isopropylamino-4-imino-2-thiazoline hydrochloride | Cl.C(C)(C)NC=1SCC(N1)=N
reactant | 1,3-diiminoisoindoline | N=C1NC(C2=CC=CC=C12)=N | C8H7N3
reactant | 2-piperidino-4-imino-2-thiazoline hydrochloride | Cl.N1(CCCCC1)C=1SCC(N1)=N
product | 1-imino-4,5,6,7-tetraethyl-3-(2-isopropylamino-4-imino-2-thiazolin-5-ylidene)isoindoline hydrochloride | Cl.N=C1NC(C2=C(C(=C(C(=C12)CC)CC)CC)CC)=C1C(N=C(S1)NC(C)C)=N | InChI=1S/C22H31N5S.ClH/c1-7-12-13(8-2)15(10-4)17-16(14(12)9-3)18(26-20(17)23)19-21(24)27-22(28-19)25-11(5)6;/h11H,7-10H2,1-6H3,(H2,23,26)(H2,24,25,27);1H
